US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-{3-[(phenylmethyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0677 g, 0.231 mmol) and 3-bromopropyl phenylmethyl ether (0.070 mL, 0.396 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0663 g, 55.2%). EI-MS m/z 442(M+) Rt (2.23 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.231 mmol, 0.0677 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-bromopropyl phenylmethyl ether | 0.396 mmol, 0.070 mL | C1(=CC=CC=C1)COCCCBr | C10H13BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-{3-[(phenylmethyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0663 g, 55.2% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C30H36NO2.BrH/c32-30(27-13-6-2-7-14-27,28-15-8-3-9-16-28)29-17-21-31(22-18-29,23-19-29)20-10-24-33-25-26-11-4-1-5-12-26;/h1-9,11-16,32H,10,17-25H2;1H/q+1;/p-1
